US08541428B2
3-Phenylquinoxalin-2-ol
Phenylglioxalic acid (26.6 mmol) was mixed with o-phenylenediamine (40 mmol) and stirred in 40 ml of ethanol for 30 min. The reaction mixture was filtered to give, after evaporation of solvent, the crude product. Recrystallization from ethanol gave pure yellow crystalls in 95% yield.

reactant | o-phenylenediamine | 40 mmol | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 3-Phenylquinoxalin-2-ol | 95% yield | C1(=CC=CC=C1)C=1C(=NC2=CC=CC=C2N1)O | C14H10N2O
